US07777047B2
N-{[1-(benzylthio)-4-oxocyclohexyl]methyl}-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide
A mixture of N-{[8-(benzylthio)-1,4-dioxaspiro[4.5]dec-8-yl]methyl}-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide (1.21 g) and acetic acid (15 mL) was added at 80° C. for 24 hr, water was added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed successively with saturated aqueous sodium hydrogencarbonate and saturated brine, dried (MgSO4), and concentrated. The residue was subjected to basic silica gel column chromatography to give the title compound (0.79 g, yield 71%) as a colorless amorphous solid from a fraction eluted with tetrahydrofuran-methanol (1:1, volume ratio). MS: 568 (MH+).

reactant | N-{[8-(benzylthio)-1,4-dioxaspiro[4.5]dec-8-yl]methyl}-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide | 1.21 g | C(C1=CC=CC=C1)SC1(CCC2(OCCO2)CC1)CNC(=O)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C | C30H33N3O5S3
reactant | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | N-{[1-(benzylthio)-4-oxocyclohexyl]methyl}-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide | 0.79 g, yield 71% | C(C1=CC=CC=C1)SC1(CCC(CC1)=O)CNC(=O)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C | C28H29N3O4S3
